US05552534
K. 5-Phthalimido-1-pentanol
To a solution of 5-amino-1-pentanol (5.00 g, 48.5 mmol) in benzene (150 mL) was added N-carboethoxyphthalimide (11.0 g, 50.2 mmol) and the solution was stirred at room temperature for 5 h). The solvents were removed under reduced pressure to yield a yellow oil. Purification by flash column chromatography using 25% ethyl acetate in petroleum ether yielded the target compound as a clear colorless oil (9.6 mg, 84%).

reactant | 5-amino-1-pentanol | 48.5 mmol, 5.00 g | NCCCCCO | C5H13NO
reactant | N-carboethoxyphthalimide | 50.2 mmol, 11.0 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | 5-Phthalimido-1-pentanol | 9.6 mg, 84% | C1(C=2C(C(N1CCCCCO)=O)=CC=CC2)=O | C13H15NO3
